US04709081
2.42 g. (0.01 mole) of 3-phenoxybenzyl acetate, 5 cm3. of methanol and 5 cm3. of 2N sodium hydroxide solution are refluxed for three hours. Then the methanol is distilled off and the organic phase is dissolved in 30 cm3. of methylene chloride, washed with 10 cm3. of 1N hydrochloric acid solution and 10 cm3. of water. 1.90 g. of 3-phenoxybenzyl alcohol are obtained. nD20 : 1.593, yield 95%.

reactant | 3-phenoxybenzyl acetate | 0.01 mole | C(C)(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C15H14O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-phenoxybenzyl alcohol | yield 95% | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
